US09359375B2
(R)-4-(1-amino-3-cyclohexyl-1-oxopropan-2-ylamino)-2-(3-methylisothiazol-5-ylamino)benzamide
To a solution of (R)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)-3-cyclohexylpropanamide (241 mg, 0.629 mmol) in DMSO (2 mL), K2CO3 (300 mg, 2.17 mmol) and H2O2 (50% aq., 1.00 mL) were added. After being stirred at 90 C for 10 min, the mixture was purified by HPLC to give the titled compound (81 mg). MS 402.4 (M+H); UV 204.7, 298.3 nm

reactant | (R)-2-(4-cyano-3-(3-methylisothiazol-5-ylamino)phenylamino)-3-cyclohexylpropanamide | 0.629 mmol, 241 mg | C(#N)C1=C(C=C(C=C1)N[C@@H](C(=O)N)CC1CCCCC1)NC1=CC(=NS1)C | C20H25N5OS
reactant | K2CO3 | 2.17 mmol, 300 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O2 | 1.00 mL | OO | H2O2
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (R)-4-(1-amino-3-cyclohexyl-1-oxopropan-2-ylamino)-2-(3-methylisothiazol-5-ylamino)benzamide | 81 mg | NC([C@@H](CC1CCCCC1)NC1=CC(=C(C(=O)N)C=C1)NC1=CC(=NS1)C)=O | C20H27N5O2S
